US07238716B2
To a mixture of 2-benzyloxy-5-hydroxybenzaldehyde (16.68 g) and N,N-dimethylformamide (100 mL) was added sodium hydride (60%, oil, 3.07 g) under ice-cooling, and the mixture was stirred at room temperature for 30 min. Chloromethyl methyl ether (11.8 g) was dropwise added to the reaction mixture. The reaction mixture was further stirred at room temperature for 3 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give 2-benzyloxy-5-methoxymethoxybenzaldehyde as a colorless oil (10.32 g, 52%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | 2-benzyloxy-5-hydroxybenzaldehyde | 16.68 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)O | C14H12O3
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 3.07 g | [H-].[Na+]
reactant | Chloromethyl methyl ether | 11.8 g | COCCl | C2H5ClO
solvent | water | O | H2O
product | 2-benzyloxy-5-methoxymethoxybenzaldehyde | 10.32 g, 52% | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OCOC | C16H16O4
